US07094908B2
Ethyl 3-(5-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.77 g, 56%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.80 g, 3.94 mmol) and 4-fluorophthalic anhydride (0.78 g, 4.72 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 3.94 mmol, 0.80 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 4-fluorophthalic anhydride | 4.72 mmol, 0.78 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
product | Ethyl 3-(5-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | FC=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H18FNO6
